US07060827B2
In like manner to the preparation of N4-(3-chloro-4-trifluoromethoxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidineamine, the reaction of 2-chloro-5-fluoro-N4-(3,4-ethylenedioxyphenyl)-4-pyrimidineamine with 3-(tetrazol-5-yl)aniline gave 5-fluoro-N4-(3,4-ethylenedioxyphenyl)-N2-[3-(tetrazol-5-yl)phenyl]-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 9.91 (s, 1H), 9.74 (s, 1H), 8.29 (s, 1H), 8.18 (d, 1H, J=4.5 Hz), 7.76 (bdd, 1H, J=1.5 and 8.1 Hz), 7.64 (d, 1H, J=8.1 Hz), 7.46 (t, 1H, J=8.1 Hz), 7.29 (m, 1H), 7.13 (dd, 1H, J=2.4 and 8.7 Hz), 6.64 (d, 1H, J=8.7 Hz), 4.11 (m, 4H); LCMS: purity: 91%; MS (m/e): 407 (MH+).

reactant | 2-chloro-5-fluoro-N4-(3,4-ethylenedioxyphenyl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3-(tetrazol-5-yl)aniline | N1N=NN=C1C=1C=C(N)C=CC1 | C7H7N5
product | 5-fluoro-N4-(3,4-ethylenedioxyphenyl)-N2-[3-(tetrazol-5-yl)phenyl]-2,4-pyrimidinediamine | FC=1C(=NC(=NC1)NC1=CC(=CC=C1)C1=NN=NN1)NC1=CC2=C(C=C1)OCCO2 | C19H15FN8O2
